US06194424B1
Methyl 4-tolyl-acetate
Rf=0.81 (toluene:ethyl acetate=2:1)

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-tolyl-acetate | C1(=CC=C(C=C1)CC(=O)OC)C | C10H12O2
